US09169270B2
Synthesis of (±)-[4-Chloro-2-(4,5,6,7-tetrahydro-thiazolo[5,4-c]pyridin-4-yl)-phenoxyl]-acetic acid isopropyl ester (C17H19N2O3ClS, MW=366.08)
To a solution of (±)-[4-chloro-2-(4,5,6,7-tetrahydro-thiazolo[5,4-c]pyridin-4-yl)-phenoxy]-acetic acid ethyl ester hydrochloride (1.70 g, 4.37 mmol, 1 eq.) in THF (50 mL) and EtOH (25 mL), 1M aq. NaOH (50 mL) was added. The pale yellow solution was stirred at r.t. for 18 hours, then concentrated in vacuo. The resulting aq. layer was carefully acidified with 2N aq. HCl. The mixture was extracted with DCM (3×100 mL). The comb. org. phases were dried over MgSO4 and concentrated in vacuo. The residue was dissolved in 5-6N HCl in 2-propanol (150 mL). The reaction mixture was stirred at r.t. for 18 hours. The mixture was concentrated in vacuo. The reaction was diluted with sat. aq. NaHCO3 (250 mL). The mixture was extracted with DCM (3×200 mL). The comb. org. phases were dried over MgSO4 and concentrated in vacuo to give the title compound as a yellow solid. The product was used without further purification.

reactant | (±)-[4-chloro-2-(4,5,6,7-tetrahydro-thiazolo[5,4-c]pyridin-4-yl)-phenoxy]-acetic acid ethyl ester hydrochloride | 4.37 mmol, 1.70 g, 1 eq. | Cl.C(C)OC(COC1=C(C=C(C=C1)Cl)C1NCCC2=C1SC=N2)=O
reactant | THF | 50 mL | C1CCOC1 | C4H8O
solvent | EtOH | 25 mL | CCO | C2H6O
solvent | NaOH | 1M, 50 mL | [OH-].[Na+]
product | (±)-[4-Chloro-2-(4,5,6,7-tetrahydro-thiazolo[5,4-c]pyridin-4-yl)-phenoxyl]-acetic acid isopropyl ester | C(C)(C)OC(COC1=C(C=C(C=C1)Cl)C1NCCC2=C1SC=N2)=O | C17H19ClN2O3S
